US07250518B2
5-Chloro-2-(4-fluoro-phenoxy)-nicotinic acid of Formula (6.0.52):
Ethyl 2,5-dichloronicotinate (2.50 g) was combined with 4-fluorophenol (1.49 g) in a sealable tube containing anhydrous 1,4-dioxane (7 mL). Anhydrous cesium carbonate (4.52 g) was added, and the reaction mixture immersed in a heated oil bath (105° C.) overnight. After cooling to ambient temperature, the resulting suspension was filtered and the solids washed with 1,4-dioxane (2×10 mL). The filtrate was collected and concentrated in vacuo to yield a crude solid (3.89 g). Tetrahydrofuran (12 mL) was added to the crude solid, followed by water (20 mL), and finely ground lithium hydroxide (1.36 g). The solution was allowed to stir 5 hours at room temperature. The organics were then removed in vacuo and the pH of the solution was then adjusted from 14 to 2 with 3N aq. hydrochloric acid. The resulting mixture was then extracted with ethyl acetate (5×50 mL). The combined organics were dried over magnesium sulfate, filtered and concentrated to dryness in vacuo to yield the crude title compound (2.71 g).

reactant | Ethyl 2,5-dichloronicotinate | 2.50 g | ClC1=C(C(=O)OCC)C=C(C=N1)Cl | C8H7Cl2NO2
reactant | 4-fluorophenol | 1.49 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | cesium carbonate | 4.52 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | lithium hydroxide | 1.36 g | [OH-].[Li+]
solvent | water | 20 mL | O | H2O
solvent | Tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-2-(4-fluoro-phenoxy)-nicotinic acid | 2.71 g | ClC=1C=NC(=C(C(=O)O)C1)OC1=CC=C(C=C1)F | C12H7ClFNO3
